US04602028
A mixture of 3.0g (8.2 mmole) of ethyl[[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]thio]acetate, 2.5g of a 30% H2O2 solution, 10 ml of formic acid and 50 ml of CH2Cl2 was stirred at room temperature for two hours. The reaction was diluted with water and extracted three times with CH2Cl2. The organics were combined, washed with dilute NaHCO3 and dried over MgSO4. The solution was concentrated at reduced pressure to a yellow oil which solidified to a cream-colored solid, 3.0g (94%) of ethyl[[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]sulfinyl]acetate, m.p. 115°-118° C. The solid was recrystallized from ether to afford pale yellow prisms of ethyl[[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]sulfinyl]acetate, m.p. 120°-121° C.

reactant | ethyl[[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]thio]acetate | 8.2 mmole, 3.0g | C(C)OC(CSC1=C(C2=C(C(=NO2)C2=C(C=CC=C2)F)C=C1)Cl)=O | C17H13ClFNO3S
reactant | H2O2 | OO | H2O2
reactant | formic acid | 10 ml | C(=O)O | CH2O2
reactant | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | ethyl[[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]sulfinyl]acetate | C(C)OC(CS(=O)C1=C(C2=C(C(=NO2)C2=C(C=CC=C2)F)C=C1)Cl)=O | C17H13ClFNO4S
